US07238808B2
4-(5-Bromo-thiophene-2-sulfonyl)-piperazine-1-carboxylic acid tert-butyl ester
To a stirred solution of commercially available 5-bromo-thiophene-2-sulfonyl chloride (1.0 g, 3.82 mmol) in THF (8 ml) was added at room temperature triethylamine (0.59 ml, 4.21 mmol), the mixture was cooled (ice-water) and a solution of commercially available 1-BOC-piperazine (2.14 g, 11.5 mmol) in THF (8 ml) was added drop wise. The reaction mixture was stirred at room temperature for 16h and evaporated. The crude product was further purified by flash chromatography (ethyl acetate/heptane) and subsequent crystallization from dichloromethane/hexane to yield the title compound (1.35 g, 86%) as a white solid. MS (ISP) 413.2 [(M+H)+], mp 127° C.

reactant | 5-bromo-thiophene-2-sulfonyl chloride | 3.82 mmol, 1.0 g | BrC1=CC=C(S1)S(=O)(=O)Cl | C4H2BrClO2S2
reactant | triethylamine | 4.21 mmol, 0.59 ml | C(C)N(CC)CC | C6H15N
reactant | 1-BOC-piperazine | 11.5 mmol, 2.14 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | 4-(5-Bromo-thiophene-2-sulfonyl)-piperazine-1-carboxylic acid tert-butyl ester | 1.35 g, 86% | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C=1SC(=CC1)Br | C13H19BrN2O4S2
